US04024164
2-Benzoyloxyethoxyethyl 12-acetoxyoleate
2-Benzoyloxyethoxyethyl 12-acetoxyoleate was prepared by the procedure of Example 1 from 21 gms (0.1 mole) of diethylene glycol monobenzoate and 36 gms (0.1 mole) of 12-acetoxyoleoyl chloride. The structure of the final product was characterized on the basis of NMR and IR spectral analyses as described in Example 1.

reactant | diethylene glycol monobenzoate | 0.1 mole, 21 gms | C(C1=CC=CC=C1)(=O)OCCOCCO | C11H14O4
reactant | 12-acetoxyoleoyl chloride | 0.1 mole, 36 gms | C(C)(=O)OC(C\C=C/CCCCCCCC(=O)Cl)CCCCCC | C20H35ClO3
product | 2-Benzoyloxyethoxyethyl 12-acetoxyoleate | C(C)(=O)OC(C\C=C/CCCCCCCC(=O)OCCOCCOC(C1=CC=CC=C1)=O)CCCCCC | C31H48O7
